US06528525B1
2-(3-Fluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 138-88 compound)
In a similar manner to that described in Example 2, ethyl 2-(3-fluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (500 mg), which is the product of Example 136, was reacted with aqueous sodium hydroxide solution (1N, 2.00 ml) and the reaction mixture was treated to give the title compound (410 mg) as a white powder.

reactant | ethyl 2-(3-fluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 500 mg | FC=1C=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=CC1 | C31H29FN2O5
reactant | sodium hydroxide | 1N, 2.00 ml | [OH-].[Na+]
product | 2-(3-Fluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 410 mg | FC=1C=C(OC(C(=O)O)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=CC1 | C29H25FN2O5
